US07135469B2
Condensation of ethylglyoxalate with 4-methoxyphenyl hydrazine and chlorination with NCS afforded (4-Methoxy-phenyl)-chlorohydrazono]-acetic acid ethyl ester. Separately d-valerolactam was dichlorinated with PCl5 and treated with morpholine at reflux to afford 3-Morpholin-4-yl-5,6-dihydro-1H-pyridin-2-one. [3+2] cycloaddition of the chlorohydrazone with the morpholine dihydropyridinone obtained above in refluxing toluene and triethylamine afforded the key intermediate 1-(4-Methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester. Alkylation (with 4-bromo-butyrylacetate) followed by deprotection of the acetate group as outlined outlined in Example 32, and amidation of the ester with ammonia afforded the desired compound. Mass Spec 357.3(M−H)−.

reactant | ethylglyoxalate | C(C)C(C(=O)[O-])=O
reactant | 4-methoxyphenyl hydrazine | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | d-valerolactam | C1CCNC(=O)C1 | C5H9NO
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | 3-Morpholin-4-yl-5,6-dihydro-1H-pyridin-2-one | N1(CCOCC1)C=1C(NCCC1)=O | C9H14N2O2
